US07795167B2
1.2. Preparation of 3,4,5-trimethyl-1-(8-quinolyl)-2-trimethylsilylcyclopentadiene
A solution of 0.87 g (3.7 mmol) of 2,3,4-trimethyl-1-(8-quinolyl)cyclopentadiene in 20 ml of tetrahydrofuran was added to a suspension of 0.15 g (3.7 mmol) of potassium hydride in 30 ml of tetrahydrofuran and the mixture was subsequently stirred at room temperature for 6 hours. 0.402 g (3.7 mmol) of trimethylsilyl chloride was added while stirring and the mixture was stirred at room temperature for a further 12 hours. The volatile constituents were distilled off and the residue obtained in this way was distilled. At 126-136° C. and 2×10−2 mbar, 3,4,5-trimethyl-1-(8-quinolyl)-2-trimethylsilylcyclopentadiene distilled over in a yield of 0.455 g (1.5 mmol, 40%).

reactant | 2,3,4-trimethyl-1-(8-quinolyl)cyclopentadiene | 3.7 mmol, 0.87 g | CC1=C(CC(=C1C)C)C=1C=CC=C2C=CC=NC12 | C17H17N
reactant | potassium hydride | 3.7 mmol, 0.15 g | [H-].[K+]
reactant | trimethylsilyl chloride | 3.7 mmol, 0.402 g | C[Si](C)(C)Cl | C3H9ClSi
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 3,4,5-trimethyl-1-(8-quinolyl)-2-trimethylsilylcyclopentadiene | CC=1C(=C(C(C1C)C)C=1C=CC=C2C=CC=NC12)[Si](C)(C)C | C20H25NSi
